US05124455
B) α-Methyl-3-cyclopentyloxy-4-methoxybenzyl alcohol
To a magnetically-stirred solution of 3-cyclopentyloxy-4-methoxybenzaldehyde (59.0 mmol, 13.0 g) in dry tetrahydrofuran (500 mL) at -78° C. is added methyllithium (100 mmol, 90.0 mL; 1.4M solution in ethyl ether) dropwise over 30 minutes. The resulting solution is stirred at -78° C. for 30 minutes and quenched at -78° C. by the rapid addition of aqueous saturated NH4Cl (140 mL). After warming to room temperature, water is added to dissolve the solids and the tetrahydrofuran was removed in vacuo. The residue is partitioned between water (500 mL) and ethyl acetate (500 mL), the aqueous phase extracted with ethyl acetate (500 mL) and the combined organic layers are washed with water (500 mL). The organics are dried (Na2SO4) and concentrated in vacuo to afford the title compound as a light yellow oil (58.3 mmol, 13.7 g; 99%). This material is of sufficient purity by TLC and NMR to be used as such in the subsequent transformation.

reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 59.0 mmol, 13.0 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | methyllithium | 100 mmol, 1.4M, 90.0 mL | C[Li]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | α-Methyl-3-cyclopentyloxy-4-methoxybenzyl alcohol | 58.3 mmol, 13.7 g, 99% | CC(C1=CC(=C(C=C1)OC)OC1CCCC1)O | C14H20O3
